US09144557B2
To a slurry of 3-bromo-6-nitro-1-(phenylsulfonyl)-1H-indole (2.80 g, 7.35 mmol) in ethanol (73.5 mL) was added a solution of tin (II) chloride monohydrate (6.63 g, 29.4 mmol) in water (11.0 mL) at 30° C. Once the addition was complete, the reaction was heated to reflux for 3.5 h, then quenched with 2.0 N sodium hydroxide to a pH of 8. The remaining slurry was diluted with ethyl acetate (100 mL), and the aqueous layer was removed and filtered. The organic phase was washed with 2.0 N sodium hydroxide (2×100 mL), and the combined aqueous layers were extracted with ethyl acetate (3×200 mL). The combined organic phases were concentrated to give a tacky, orange solid for 3-bromo-1-(phenylsulfonyl)-1H-indol-6-amine (2.35 g, 6.69 mmol, 91%).

reactant | 3-bromo-6-nitro-1-(phenylsulfonyl)-1H-indole | 7.35 mmol, 2.80 g | BrC1=CN(C2=CC(=CC=C12)[N+](=O)[O-])S(=O)(=O)C1=CC=CC=C1 | C14H9BrN2O4S
reactant | tin (II) chloride monohydrate | 29.4 mmol, 6.63 g | O.[Sn](Cl)Cl
solvent | ethanol | 73.5 mL | C(C)O | C2H6O
solvent | water | 11.0 mL | O | H2O
product | 3-bromo-1-(phenylsulfonyl)-1H-indol-6-amine | 6.69 mmol, 2.35 g, 91% | BrC1=CN(C2=CC(=CC=C12)N)S(=O)(=O)C1=CC=CC=C1 | C14H11BrN2O2S
